US07795249B2
To a suspension of NaH (1.12 g, 28.0 mmol) in DMF (75 mL) was added a solution of (5-bromopyridin-3-yl)methanol (4.21 g, 22.4 mmol) in DMF (8 mL) at 0° C. The mixture was allowed to stir at 0° C. for 15 min and then 1-(chloromethyl)-4-methoxybenzene (5.41 g, 34.6 mmol) was added followed by tetra-N-butylammonium iodide (0.91 g, 2.4 mmol). The reaction mixture was allowed to vigorously stir and warm to rt overnight. The reaction mixture was partitioned between EtOAc and water. The aqueous solution was extracted with EtOAc. The organic solutions were combined, washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography to give 3-bromo-5-{[(4-methoxybenzyl)oxy]methyl}pyridine (4.40 g, 64%) as a yellow oil. LCMS: (FA) ES+ 308.1.

reactant | NaH | 28.0 mmol, 1.12 g | [H-].[Na+]
reactant | (5-bromopyridin-3-yl)methanol | 22.4 mmol, 4.21 g | BrC=1C=C(C=NC1)CO | C6H6BrNO
reactant | 1-(chloromethyl)-4-methoxybenzene | 34.6 mmol, 5.41 g | ClCC1=CC=C(C=C1)OC | C8H9ClO
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 3-bromo-5-{[(4-methoxybenzyl)oxy]methyl}pyridine | 4.40 g, 64% | BrC=1C=NC=C(C1)COCC1=CC=C(C=C1)OC | C14H14BrNO2
